### PR TITLE
[Merged by Bors] - feat(Mathlib/Analysis/Asymptotics/Defs): congr lemmas for IsBigO*

### PR DESCRIPTION
**Pull request by khwilson**
This PR primarily provides two calculational lemmas that are commonly used in bounding functions.

First, it provides `IsBigO*.sum_congr`. This theorem allows the user to bound each term of a (finite) sum individually. This is different than `IsBigO.sum` which requires all terms to be bound by the _same_ function.

Second, it provides `IsBigO*.sum_congr'`. This theorem allows the user to bound the terms of a sum individually _when the length of the sum changes with respect to the running variable_. This is a common setup with certain techniques such as the method of the hyperbola.

Note: This makes the overall length of this file go above 1500 lines. I'm happy to break it up at the request of reviewers, but that's a bigger change to the API.

AI Usage: Looking up various lemma names in Google Gemini.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Defs.lean [hunk 1]
```diff
@@ -989,10 +991,42 @@ theorem IsLittleO.add (h₁ : f₁ =o[l] g) (h₂ : f₂ =o[l] g) : (fun x => f
     ((h₁.forall_isBigOWith <| half_pos cpos).add (h₂.forall_isBigOWith <|
       half_pos cpos)).congr_const (add_halves c)
 
+variable {g₁ g₂ : α → ℝ} in
+theorem IsBigOWith.add_add' (h₁ : IsBigOWith c₁ l f₁ g₁) (h₂ : IsBigOWith c₂ l f₂ g₂)
+    (hg₁_nonneg : ∀ᶠ x in l, 0 ≤ g₁ x) (hg₂_nonneg : ∀ᶠ x in l, 0 ≤ g₂ x) :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/Defs.lean]: The `variable ... in` seems weird given that these weren't declared previously? Normally you just add them to the declaration.
```suggestion
theorem IsBigOWith.add_add' {g₁ g₂ : α → ℝ} (h₁ : IsBigOWith c₁ l f₁ g₁)
    (h₂ : IsBigOWith c₂ l f₂ g₂) (hg₁_nonneg : ∀ᶠ x in l, 0 ≤ g₁ x)
    (hg₂_nonneg : ∀ᶠ x in l, 0 ≤ g₂ x) :
```

File: Mathlib/Analysis/Asymptotics/Defs.lean [hunk 2]
```diff
@@ -989,10 +991,42 @@ theorem IsLittleO.add (h₁ : f₁ =o[l] g) (h₂ : f₂ =o[l] g) : (fun x => f
...
+  calc
+    ‖f₁ x + f₂ x‖ ≤ c₁ * ‖g₁ x‖ + c₂ * ‖g₂ x‖ := norm_add_le_of_le hx₁ hx₂
+    _ ≤ (max c₁ c₂) * ‖g₁ x‖ + (max c₁ c₂) * ‖g₂ x‖ := by
+        gcongr <;> simp [le_max_left _ _, le_max_right _ _]
+    _ = (max c₁ c₂) * (g₁ x + g₂ x) := by
+        rw [Real.norm_of_nonneg hgx₁, Real.norm_of_nonneg hgx₂]; ring
+    _ = (max c₁ c₂) * ‖g₁ x + g₂ x‖ := by rw [Real.norm_of_nonneg (add_nonneg hgx₁ hgx₂)]
+
+variable {g₁ g₂ : α → ℝ} in
+theorem IsBigO.add_add' (h₁ : f₁ =O[l] g₁) (h₂ : f₂ =O[l] g₂)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/Defs.lean]:
```suggestion
theorem IsBigO.add_add {g₁ g₂ : α → ℝ} (h₁ : f₁ =O[l] g₁) (h₂ : f₂ =O[l] g₂)
```

**Review by j-loreaux — COMMENTED** [review]
Can you say a bit why you prefer the versions with nonnegativity assumptions as opposed to the sum of norms on the RHS (as in the existing `IsLittleO.add_add`)? I would understand it if it required the same / fewer assumptions, but it doesn't. Therefore, I suspect that the norm version is more useful in practice.

I do think these are nice lemmas to have, but I would prefer the norm versions unless you can convince me otherwise.

File: Mathlib/Analysis/Asymptotics/Defs.lean (hunk 1 above)
Comment (khwilson) [reply Mathlib/Analysis/Asymptotics/Defs.lean]: Huh not sure how that slipped by

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
